### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Counterexamples/AharoniKorman.lean [hunk 1]
```diff
@@ -59,7 +59,7 @@ aim of reaching a contradiction (as then, no such partition can exist). We may f
   them is exactly the length of a maximal chain between them (`card_C_inter_Icc_eq`).
 * For two points of `C` in the same level, and two points `(a, b, n)` and `(c, d, n)` between them,
   if `a + b = c + d` then `f (a, b, n) = f (c, d, n)` (`apply_eq_of_line_eq`).
-* No element of `S ​\ (C ∩ level n)` can be mapped into `level (n + 1)` (`not_S_hits_next`). This
+* No element of `S \ (C ∩ level n)` can be mapped into `level (n + 1)` (`not_S_hits_next`). This
```
Comment (Ruben-VandeVelde) [inline Counterexamples/AharoniKorman.lean:62]: Somehow a zero-width space ended up in here.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 2]
```diff
@@ -73,11 +73,9 @@ instance instId_comp {M N : Type*} [Monoid M] [Monoid N]
 lemma comp_inv {φ : M →* N} {ψ : N →* M} (h : Function.RightInverse φ ψ)
     {χ : M →* M} [IsId χ] :
     CompTriple φ ψ χ where
-  comp_eq := by
-    simp only [IsId.eq_id, ← DFunLike.coe_fn_eq, coe_comp, h.id]
-    rfl
+  comp_eq := by simp only [IsId.eq_id, ← DFunLike.coe_fn_eq, coe_comp, h.id, coe_id]
```
Comment (grunweg) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:76]: You could also do `by simp` here

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:76]:
```suggestion
  comp_eq := by simp [IsId.eq_id, ← DFunLike.coe_fn_eq, h.id]
```
seems to work, yeah. I have no opinion. Reviewer: feel free to apply or not.

File: Counterexamples/AharoniKorman.lean (hunk 1 above)
Comment (jcommelin) [reply Counterexamples/AharoniKorman.lean:62]: Wow, good catch! Did you search all of mathlib for non-printing whitespace chars?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Counterexamples/AharoniKorman.lean (hunk 1 above)
Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:62]: Woah, nice catch! I think I know how this happened: I have `\ ` set locally to produce a zero-width space, which means when I write set-difference sometimes, I typo a zero-width space. And in code it usually gives a parse error when I make the typo, but not in comments! Thanks for catching this!
